US07253195B2
2-(2-Hydroxy-3-methyl-butyrylamino)-pentanoic acid (5-tert-butyl-[1,3,4]thiadiazol-2-yl)-amide
A mixture of 2-(S)-hydroxyl-3-methyl-butyric acid (35.4 mg, 0.3 mmol), 2-amino-pentanoic acid (5-tert-butyl-[1,3,4]thiadiazol-2-yl)-amide (88 mg, 0.3 mmol), HBOT (43 mg, 0.21 mmol), EDC HCl (69 mg, 0.36 mmol.) and triethylamine (0.17 ml) in 2 ml of methylene chloride was stirred at room temperature until product formation or disappearance of starting material. The mixture was quenched with water and extracted with methylene chloride. The organic layer was separated, washed with dilute HCl, brine, dried over sodium sulfate and the solvent was removed at reduced pressure to provide the title compound as a cude oil. The oil was purified by Shimadzu HPLC to provide the title compound as a light yellow solid (44 mg), LC-MS M+1=357.1

reactant | 2-(S)-hydroxyl-3-methyl-butyric acid | 0.3 mmol, 35.4 mg | O[C@H](C(=O)O)C(C)C | C5H10O3
reactant | 2-amino-pentanoic acid (5-tert-butyl-[1,3,4]thiadiazol-2-yl)-amide | 0.3 mmol, 88 mg | C(C)(C)(C)C1=NN=C(S1)NC(C(CCC)N)=O | C11H20N4OS
reactant | EDC HCl | 0.36 mmol, 69 mg | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-Hydroxy-3-methyl-butyrylamino)-pentanoic acid (5-tert-butyl-[1,3,4]thiadiazol-2-yl)-amide | C(C)(C)(C)C1=NN=C(S1)NC(C(CCC)NC(C(C(C)C)O)=O)=O | C16H28N4O3S
